US07531532B2
N-(4-Fluorophenyl)-N′-{4-[2-(cyclopropanecarbonylamino)pyridin-4-yloxy]-3-fluorophenyl}malonamide
N-(4-Fluorophenyl)-N′-[4-(2-aminopyridin-4-yloxy)-3-fluorophenyl]malonamide (34 mg) was dissolved in N,N-dimethylformamide (0.5 ml), and then triethylamine (0.047 ml) and cyclopropanecarbonyl chloride (0.016 ml) were added dropwise thereto under a nitrogen atmosphere at room temperature, followed by stirring for 1 hr. To the reaction mixture were added a 1 N aqueous solution of sodium hydroxide (1.5 ml) and methanol (1.0 ml), followed by stirring and extracting with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of ammonium chloride in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate). Fractions containing the target compound were concentrated to give a residue, which was then dried in vacuum to provide the titled compound (21.1 mg, 53%) as white powder.

reactant | N-(4-Fluorophenyl)-N′-[4-(2-aminopyridin-4-yloxy)-3-fluorophenyl]malonamide | 34 mg | FC1=CC=C(C=C1)NC(CC(=O)NC1=CC(=C(C=C1)OC1=CC(=NC=C1)N)F)=O | C20H16F2N4O3
reactant | triethylamine | 0.047 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.016 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | methanol | 1.0 ml | CO | CH4O
product | N-(4-Fluorophenyl)-N′-{4-[2-(cyclopropanecarbonylamino)pyridin-4-yloxy]-3-fluorophenyl}malonamide | 21.1 mg, 53% | FC1=CC=C(C=C1)NC(CC(=O)NC1=CC(=C(C=C1)OC1=CC(=NC=C1)NC(=O)C1CC1)F)=O | C24H20F2N4O4
